US06313153B1
Under argon, a solution of 2-(3,4-dimethoxyphenyl)-2-(methylthio)nitroethane (1.22 g, 4.8 mmol) in tetrahydrofuran (20 ml) was dropwise added to an ice-cooled and stirred solution of lithium aluminum hydride (0.47 g) in tetrahydrofuran (10 ml). After stirring at room temperature for 30 minutes, water (0.47 ml), 15% aqueous sodium hydroxide solution (0.47 g) and water (1.14 ml) were sequentially added dropwise to the reaction mixture under ice-cooling and stirring. A small amount of potassium carbonate was added and stirred for a few minutes. Inorganic salts were filtered out and washed with tetrahydrofuran and the filtrate was concentrated under reduced pressure and dried to yield a crude oily 2-(3,4-dimethoxyphenyl)-2-(methylthio)ethylamine (0.98 g).

reactant | 2-(3,4-dimethoxyphenyl)-2-(methylthio)nitroethane | 4.8 mmol, 1.22 g | COC=1C=C(C=CC1OC)C(C[N+](=O)[O-])SC | C11H15NO4S
reactant | lithium aluminum hydride | 0.47 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 0.47 g | [OH-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | 1.14 ml | O | H2O
solvent | water | 0.47 ml | O | H2O
product | 2-(3,4-dimethoxyphenyl)-2-(methylthio)ethylamine | 0.98 g | COC=1C=C(C=CC1OC)C(CN)SC | C11H17NO2S
